US09169259B2
A mixture of 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (50 mg, 0.121 mmol), 2-aminopropan-1-ol (12 mg, 0.133 mmol), 1-methyl-1H-imidazole (40 mg, 0.484 mmol) and EDCI (92 mg, 0.484 mmol) in dichloromethane (10 mL) was stirred at room temperature for 20 h then concentrated. The residue was purified by Prep-TLC (silica gel, 200-300 mesh, methanol:dichloromethane=1:30) to afford (3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenyl)(morpholino)methanone (30 mg, 51%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.84 (s, 1H), 8.11-8.01 (m, 3H), 7.61-7.54 (m, 3H), 7.44 (t, 1H, J=8.1 Hz), 6.30 (d, 1H, J=7.8 Hz), 6.09 (d, 1H, J=8.4 Hz), 4.27-4.21 (m, 1H), 3.79-3.44 (m, 10H), 2.18-2.04 (m, 3H), 1.79 (brs, 1H), 1.19 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 484, tR=1.738 min, HPLC: 99.76% at 214 nm, 99.56% at 254 nm, tR=5.698 min.

reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.121 mmol, 50 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O2
reactant | 2-aminopropan-1-ol | 0.133 mmol, 12 mg | NC(CO)C | C3H9NO
reactant | 1-methyl-1H-imidazole | 0.484 mmol, 40 mg | CN1C=NC=C1 | C4H6N2
reactant | EDCI | 0.484 mmol, 92 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenyl)(morpholino)methanone | 30 mg, 51% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=CC1)C(=O)N1CCOCC1)C=CN2 | C27H29N7O2
